### PR TITLE
feat: add leftmost derivation in context free grammar

### PR DESCRIPTION
**Pull request by TobiasLeichtfried**
Leftmost derivations are often easier to reason about than arbitrary derivations. This
adds leftmost variants of Rewrites, Produces and Derives to the existing definition of context free grammar
and proofs that a string of terminals can be derived iff it can be leftmost derived.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 1]
```diff
@@ -0,0 +1,409 @@
...
+    (p : List T) (q : List (Symbol T N)) :
+    r.RewritesLeftmost (p.map terminal ++ [nonterminal r.input] ++ q)
+      (p.map terminal ++ r.output ++ q) := by
+  induction p with
+  | nil =>
+    exact RewritesLeftmost.head q
+  | cons x p' ih =>
+    rw [List.map_cons]
+    exact cons x ih
+
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:66]: one less empty line

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 2]
```diff
@@ -0,0 +1,409 @@
...
+  induction hr with
+  | head s =>
+    use [], s
+    simp
+  | cons x _ ih =>
+    obtain ⟨p, q, hpq⟩ := ih
+    use x::p, q
+    simp [hpq]
+
+theorem RewritesLeftmost.rewrites_leftmost_of_exists_parts (r : ContextFreeRule T N)
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:56]: In all theorem names, `rewrites_leftmost` should be written together because `rewritesLeftmost` clearly indicates that `RewritesLeftmost` is the definition it refers to.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 3]
```diff
@@ -0,0 +1,409 @@
...
+  · intro ⟨p, q, hu, hv⟩
+    rw [hu, hv]
+    exact rewrites_leftmost_of_exists_parts r p q
+
+/-- No rule can rewrite a string only consisting of terminals-/
+theorem RewritesLeftmost.rewrite_terminal (r : ContextFreeRule T N) (w : List T)
+    (u : List (Symbol T N)): ¬ RewritesLeftmost r (w.map terminal) u := by
+  intro h
+  rw [rewrites_leftmost_iff] at h
+  obtain ⟨p,q,h₁,_⟩ := h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:87]: spaces after commas

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 4]
```diff
@@ -0,0 +1,409 @@
...
+  symm at h₁
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:88]: probably don't call `symm` as a tactic; rather indicate later `obtain ⟨l₁,_,_,h,_⟩ := h₁.symm`

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 5]
```diff
@@ -0,0 +1,409 @@
...
+  rw [List.append_eq_map_iff] at h₁
+  obtain ⟨l₁,_,_,h,_⟩ := h₁
+  symm at h
+  rw [List.append_eq_map_iff] at h
+  obtain ⟨_,l₂,_,_,h⟩ := h
+  rcases l₂ with _|⟨x, xs⟩ <;> simp at h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:94]: this line looks weird

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 6]
```diff
@@ -0,0 +1,409 @@
...
+  | nil => simp [hr]
+  | cons x _ ih => exact ih.cons x
+
+theorem RewritesLeftmost.append_right {r : ContextFreeRule T N}
+    {v w : List (Symbol T N)} (hr : r.RewritesLeftmost v w) (p : List (Symbol T N)) :
+    r.RewritesLeftmost (v ++ p) (w ++ p) := by
+  obtain ⟨s, t, rfl, rfl⟩ := hr.exists_parts
+  simpa using rewrites_leftmost_of_exists_parts r s (t ++ p)
+
+theorem RewritesLeftmost.rewrites_of_rewrites_leftmost {r : ContextFreeRule T N}
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:109]: redundancy in namespace/name

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 7]
```diff
@@ -0,0 +1,409 @@
...
+  · left
+    refine ⟨r.output, v, rfl, ?_, rfl⟩
+    convert RewritesLeftmost.head []
+    simp
+  · right
+    exact ⟨[x], s₂, by simp, by simp, hrs⟩
+
+/-- If `r` rewrites `v₁++v₂` to `u`, than one of two options is the case:
+Either the rewrite happens in `v₁` and `v₂` remains unchanged or `v₁` consist only
+of terminal symbols and the rewrite happens in `v₂`-/
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:130]: `v₂`. -/

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 8]
```diff
@@ -0,0 +1,409 @@
...
+    g.DerivesLeftmost (v ++ p) (w ++ p) := by
+  induction hvw with
+  | refl => rfl
+  | tail _ last ih => exact ih.trans_produces <| last.append_right p
+
+theorem produces_of_produces_leftmost {u v : List (Symbol T g.NT)} (h : g.ProducesLeftmost u v):
+    g.Produces u v := by
+  obtain ⟨r,hr⟩ := h
+  use r, hr.1
+  apply ContextFreeRule.RewritesLeftmost.rewrites_of_rewrites_leftmost
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:295]: this spelling is really bad

**Review by madvorak — APPROVED** [review]
Good job!

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 9]
```diff
@@ -0,0 +1,409 @@
...
+    (hvw : g.DerivesLeftmost v w) :
+    g.DerivesLeftmost u w :=
+  Relation.ReflTransGen.trans huv hvw
+
+lemma DerivesLeftmost.trans_produces {u v w : List (Symbol T g.NT)}
+    (huv : g.DerivesLeftmost u v) (hvw : g.ProducesLeftmost v w) :
+    g.DerivesLeftmost u w :=
+  huv.trans hvw.single
+
+lemma Leftmost.trans_derives {u v w : List (Symbol T g.NT)}
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:250]: probably `ProducesLeftmost.trans_derivesLeftmost`

**Comment by madvorak** [comment]
I don't know what the correct style for vertical lines is; I don't use them at all.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 10]
```diff
@@ -0,0 +1,404 @@
...
+  · right
+    exact ⟨[x], s₂, by simp, by simp, hrs⟩
+
+/-- If `r` rewrites `v₁++v₂` to `u`, than one of two options is the case:
+Either the rewrite happens in `v₁` and `v₂` remains unchanged or `v₁` consist only
+of terminal symbols and the rewrite happens in `v₂`.-/
+theorem rewritesLeftmost_append {r : ContextFreeRule T N} {v₁ v₂ u : List (Symbol T N)}
+    (h : r.RewritesLeftmost (v₁ ++ v₂) u) :
+    (∃ (u₁ u₂ : List (Symbol T N)), u = u₁ ++ u₂ ∧ (r.RewritesLeftmost v₁ u₁ ∧ u₂ = v₂)) ∨
+    (∃ (w₁ : List T)(u₂ : List (Symbol T N)),
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:129]:
```suggestion
    (∃ (w₁ : List T) (u₂ : List (Symbol T N)),
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 11]
```diff
@@ -0,0 +1,404 @@
...
+      rw [hv.2, List.append_assoc] at ih
+      obtain ⟨u₁, hu⟩|⟨w₁, u₂, hu⟩ := derivesLeftmost_append ih
+      · obtain ⟨w₁₁, w₂₂, hw⟩ := List.map_eq_append_iff.mp hu.1
+        have d₁ : g.DerivesLeftmost ([nonterminal r.input] ++ v₂) (r.output ++ v₂) := by
+          apply ProducesLeftmost.single
+          use r, hr
+          rw [ContextFreeRule.RewritesLeftmost.rewritesLeftmost_iff]
+          use [], v₂
+          simp
+        have d₂ := DerivesLeftmost.append_left d₁ w₁₁
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:390]: If possible, use descriptive names instead.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 12]
```diff
@@ -0,0 +1,404 @@
...
+  | tail _ last ih => exact ih.trans_produces <| last.append_right p
+
+theorem produces_of_produces_leftmost {u v : List (Symbol T g.NT)} (h : g.ProducesLeftmost u v):
+    g.Produces u v := by
+  obtain ⟨r,hr⟩ := h
+  use r, hr.1
+  apply ContextFreeRule.rewrites_of_rewritesLeftmost
+  exact hr.2
+
+theorem derives_of_derivesLeftmost {u v : List (Symbol T g.NT)}(h:g.DerivesLeftmost u v) :
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:293]:
```suggestion
theorem derives_of_derivesLeftmost {u v : List (Symbol T g.NT)} (h : g.DerivesLeftmost u v) :
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 13]
```diff
@@ -0,0 +1,404 @@
...
+    exact rewritesLeftmost_of_exists_parts r p q
+
+/-- No rule can rewrite a string only consisting of terminals-/
+theorem RewritesLeftmost.rewrite_terminal (r : ContextFreeRule T N) (w : List T)
+    (u : List (Symbol T N)): ¬ RewritesLeftmost r (w.map terminal) u := by
+  intro h
+  rw [rewritesLeftmost_iff] at h
+  obtain ⟨p, q, h₁, _⟩ := h
+  obtain ⟨l₁, _, _, h, _⟩ := List.append_eq_map_iff.mp h₁.symm
+  obtain ⟨_, l₂, _, _, h⟩ :=List.append_eq_map_iff.mp h.symm
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:88]:
```suggestion
  obtain ⟨_, l₂, _, _, h⟩ := List.append_eq_map_iff.mp h.symm
```
